US05990133
1-(3,5-Dibromo-4-methylphenylcarbamoyl)-5-methoxy-6-trifluoromethylindoline (D25)
The title compound was prepared by the method of Example 1, from 3,5-dibromo-4-methylaniline (2.64 g, 10 mmol), 1,1'-carbonyldiimidazole (1.64 g, 10 mmol) and 5-methoxy-6-trifluoromethylindoline (D11) (2.2 g, 10 mmol). Crude product was recrystallised from DMSO/water and washed with methanol and ether, to give the title compound (2.64 g, 52%), mp >250° C.

reactant | 3,5-dibromo-4-methylaniline | 10 mmol, 2.64 g | BrC=1C=C(N)C=C(C1C)Br | C7H7Br2N
reactant | 1,1'-carbonyldiimidazole | 10 mmol, 1.64 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-methoxy-6-trifluoromethylindoline | 10 mmol, 2.2 g | COC=1C=C2CCNC2=CC1C(F)(F)F | C10H10F3NO
product | 1-(3,5-Dibromo-4-methylphenylcarbamoyl)-5-methoxy-6-trifluoromethylindoline | 2.64 g, 52% | BrC=1C=C(C=C(C1C)Br)NC(=O)N1CCC2=CC(=C(C=C12)C(F)(F)F)OC | C18H15Br2F3N2O2
